US07723331B2
a) 3-(1-Methyl-piperidin-4-yloxy)-benzonitrile
1-Methyl-piperidin-4-ol (7.17 g, 62.25 mmol) was dissolved in DMF (40 ml) and cooled to 0° C. NaH (4.48 g, 93.4 mmol) was added in small portions and the reaction stirred for 30 min. 3-Fluoro-benzonitrile (8.0 ml, 74.7 mmol) was added and the reaction allowed to reach r.t. over 1 h and stirred for a further 16 h. The resulting brown solution was cooled to 0° C. and quenched by addition of water. The reaction mixture was separated between DCM (500×2 ml) and water (750 ml). The combined organics were washed with water (500 ml), dried through a phase separator and evaporated in vacuo. Flash silica gel chromatography using a 100 g Biotage column with a gradient of 20-100% EtOAc/MeOH/TEA 100:10:1 in heptane failed to give a pure product. The oil was dissolved in 0.1 M KHSO4 (aq) and washed with ether (×4), the aqueous layer basified (2 M NaOH (aq)) and extracted twice with ether. The organic phase was dried over a phase separator and evaporated in vacuo. To the red brown oil was added 4M HCl in dioxane and the resulting precipitate was filtered. To the salt was added 10% NaHCO3 (aq), extracted with DCM, dried through a phase separator and evaporated in vacuo to give a light orange oil. Yield: 4.73 g (29%). 1H NMR (400 MHz, CDCl3) δ 7.35 (t, 1H, JHH=7.84 Hz), 7.21 (dt, 1H, J=7.39 Hz, J=1.06 Hz), 7.15-7.10 (m, 2H), 4.32 (m, 1H, J=3.74 Hz), 2.68 (m, 2H), 2.33-2.24 (m, 5H), 2.04-1.95 (m, 2H), 1.88-1.78 (m, 2H). MS (ESI+) 217.07 (M+1H+).

reactant | 1-Methyl-piperidin-4-ol | 62.25 mmol, 7.17 g | CN1CCC(CC1)O | C6H13NO
reactant | NaH | 93.4 mmol, 4.48 g | [H-].[Na+]
reactant | 3-Fluoro-benzonitrile | 74.7 mmol, 8.0 ml | FC=1C=C(C#N)C=CC1 | C7H4FN
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | KHSO4 | 0.1 M | OS(=O)(=O)[O-].[K+]
product | 3-(1-Methyl-piperidin-4-yloxy)-benzonitrile | CN1CCC(CC1)OC=1C=C(C#N)C=CC1 | C13H16N2O
